US07262185B2
To 1-cyclobutylmethyl-2-hydroxymethylimidazole (2.90 g) was added thionyl chloride (29 ml) at 0° C., and the mixture was heated for 30 minutes under nitrogen atmosphere at 90° C. The mixture was allowed to be at room temperature. The solvent was distilled off under reduced pressure and the obtained residue was dissolved in methanol and the solvent was distilled off again under reduced pressure. The obtained solid was recrystallized from ethyl acetate, to give 2-chloromethyl-1-cyclobutylmethylimidazole hydrochloride (3.54 g) as brown crystals.

reactant | 1-cyclobutylmethyl-2-hydroxymethylimidazole | 2.90 g | C1(CCC1)CN1C(=NC=C1)CO | C9H14N2O
reactant | thionyl chloride | 29 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloromethyl-1-cyclobutylmethylimidazole hydrochloride | 3.54 g | Cl.ClCC=1N(C=CN1)CC1CCC1 | InChI=1S/C9H13ClN2.ClH/c10-6-9-11-4-5-12(9)7-8-2-1-3-8;/h4-5,8H,1-3,6-7H2;1H
